US06110929
N4 -(2-methylpropyl)quinoline-3,4-diamine (5.4 g, 25 mmol) was combined with carbon disulfide (9 mL, 150 mmol) and ethanol (55 mL) and then heated at reflux on a steam bath for 2 hours. The resulting precipitate was isolated by filtration, washed with ethanol and then air dried to provide 4.4 g of crude product. A portion (1 g) was dissolved in hot dilute sodium hydroxide and then reprecipitated with acetic acid. The precipitate was isolated by filtration while still hot, washed with hexane and then air dried to provide thiazolo[4,5-c]quinoline-2-thiol as a solid, m.p. 282-284° C. Analysis: Calculated for C10H6N2S2 : % C, 55.02; % H, 2.77; % N, 12.83: Found: % C, 54.96; % H, 2.69; % N, 12.74.

reactant | N4 -(2-methylpropyl)quinoline-3,4-diamine | 25 mmol, 5.4 g | CC(CNC1=C(C=NC2=CC=CC=C12)N)C | C13H17N3
reactant | carbon disulfide | 150 mmol, 9 mL | C(=S)=S | CS2
reactant | ethanol | 55 mL | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | thiazolo[4,5-c]quinoline-2-thiol | S1C(=NC=2C=NC=3C=CC=CC3C21)S | C10H6N2S2
